US08492582B2
Trifluoroacetic acid (5.0 mL) was added to the obtained tert-butyl 2-(5-(((2-(dimethylamino)ethyl)(methyl)amino)methyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate (0.070 g), followed by stirring at room temperature for 8 hours. The solvent was evaporated under reduced pressure, and water and ethyl acetate were added to the residue. After adjusting the pH to 6.3 with a saturated aqueous solution of sodium bicarbonate, the organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.045 g of 2-(5-(((2-(dimethylamino)ethyl)(methyl)amino)methyl)-2-hydroxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | Trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(5-(((2-(dimethylamino)ethyl)(methyl)amino)methyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate | 0.070 g | CN(CCN(C)CC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)OCOC)C | C32H41N3O5
product | 2-(5-(((2-(dimethylamino)ethyl)(methyl)amino)methyl)-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.045 g | CN(CCN(C)CC=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O)C | C26H29N3O4
